2196-01-13 10:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia, acute renal failure,
   hypotension, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   In MICU, dyspnea has persisted. Patient has required NRB mask to
   maintain O2 sats in 90's. Afebrile overnight. On antibiotics for
   possible pulmonary infection. Transfused 2 units of PRBC's and given
   fluids with improved blood pressure.
   Received Haldol for anxiety with some improvement.
   Creatinine improving.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2196-1-13**] 03:00 AM
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-13**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 92 (87 - 101) bpm
   BP: 117/74(84) {91/33(45) - 181/164(168)} mmHg
   RR: 27 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
           Total In:
                                                                  3,000 mL
                                                                  1,123 mL
   PO:
           250 mL
   TF:
   IVF:
   518 mL
   Blood products:
                                                                    300 mL
                                                                    355 mL
   Total out:
                                                                    100 mL
                                                                  1,600 mL
   Urine:
   1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,900 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Moderate
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds: No(t) Clear
   : , Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished:
   , No(t) Absent : , No(t) Rhonchorous: ), Scattered rales anterior and
   posterior
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: 2+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   20 K/uL
   122 mg/dL
   3.1 mg/dL
   17 mEq/L
   4.7 mEq/L
   93 mg/dL
   108 mEq/L
   142 mEq/L
   22.7 %
   4.3 K/uL
        [image002.jpg]
                            [**2196-1-13**]  12:44 AM
   WBC
   4.3
   Hct
   22.7
   Plt
   20
   Cr
   3.1
   Glucose
   122
   Other labs: Differential-Neuts:79.1 %, Band:0.0 %, Lymph:16.7 %,
   Mono:3.0 %, Eos:0.1 %, D-dimer:150 ng/mL, Fibrinogen:464 mg/dL,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR: pleural mets. Increased interstitial markings at the
   bases.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   HYPOXEMIA
   ANEMIA
   THROMBOCYTOPENIA
   Patient's dyspnea is likely multifactorial with anemia, hypoxemia,
   acidemia, restrictive lung disease from pleural mets and probably
   lymphangitic tumor. Renal function is improving - renal failure likely
   due to intravascular volume depletion. Treating possible pneumonia with
   antibiotics. Patient to have LENI's to assess for DVT - possible PE.
   Patient being transfused for his anemia (likely due to chemo; possible
   contribution from low level GI bleed). Will begin opiates for dyspnea
   with morphine; consider fentanyl patch.
   Platelet count down with chemo. No CNS bleed. Monitoring counts.
   LFT's elevated. Will assess with RUQ ultrasound. Hepatitis serology
   pending.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-1-12**] 10:17 PM
   20 Gauge - [**2196-1-12**] 10:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2196-01-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2196-1-13**] 09:00 AM
   - ENT deferred inpatient consult and recommended that patient follow-up
   as an oupatient for work-up of hoarseness,   should be arranged when he
   is closer to discharge (clinic x27500)
   - Morphine 2 mg iv x1 and q6 h prn for resipratory anxiety ; Deferred
   fentanyl patch until am
   - restarted klonipin
   - TTE -(LVEF>55%). Increased left ventricular filling pressure
   (PCWP>18mmHg). The right ventricular cavity is moderately dilated with
   moderate global free [**Known lastname **] hypokinesis. There is abnormal septal
   motion/position consistent with right ventricular pressure/volume
   overload.  Mild (1+) mitral regurgitation is seen. There is moderate
   pulmonary artery systolic hypertension. There is a trivial/physiologic
   pericardial effusion.
   - LEFT LENI - no dvt
   - RUQ u/s - PENDING
   - updated code status to DNR/DNI
   - Hct - 22.7 > 22.7 > 25.2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Ceftriaxone - [**2196-1-14**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 103 (90 - 113) bpm
   BP: 109/53(64) {101/53(64) - 128/74(84)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,228 mL
                                                                     50 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    623 mL
                                                                     50 mL
   Blood products:
                                                                    355 mL
   Total out:
                                                                  3,850 mL
                                                                  1,050 mL
   Urine:
                                                                  3,850 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,622 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, tachypnec
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Prominent p2
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, Occasionally
   confused, agitatied
   Labs / Radiology
   26 K/uL
   9.0 g/dL
   157 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   46 mg/dL
   108 mEq/L
   142 mEq/L
   26.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2196-1-13**]  12:44 AM
                            [**2196-1-13**]  11:36 AM
                            [**2196-1-13**]  05:11 PM
                            [**2196-1-14**]  04:45 AM
   WBC
   4.3
   4.1
   5.0
   7.4
   Hct
   22.7
   22.7
   25.2
   26.3
   Plt
   20
   21
   25
   26
   Cr
   3.1
   1.8
   1.1
   Glucose
   122
   148
   157
   Other labs: ALT / AST:1092/765, Alk Phos / T Bili:92/0.6,
   Differential-Neuts:79.1 %, Band:0.0 %, Lymph:16.7 %, Mono:3.0 %,
   Eos:0.1 %, D-dimer:150 ng/mL, Fibrinogen:499 mg/dL, LDH:747 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   1. Hypoxia: Known metastatic lung cancer, but presents with change in
   sputum with occasional hypoxia. Given CXR and recent chemo, infection
   likely.  Thus have started on broad spectrum antibiotics and sputum
   cultures are sent.  Other potential infections include fungal and
   viral.  Non infectious etiologies include pulmonary embolism and
   progression of his cancer.   Given acute renal failure and abnormal
   chest x-ray, both CTA and V/Q scan are suboptimal choices.  Though
   getting a Q scan to assess solely perfusion could be considered.
   Having progression of his know metastatic disease especially in the
   form of lymphangitic spread could explain current hypoxia, though the
   progression may be somewhat acute.
   - Vanc, ceftriaxone, levofloxacin
   - Repeat CXR in AM
   - Consider non-contrast CT versus perfusion scan
   - follow up viral and sputum cultures
   - urine legionella antigen
   2. Hypotension Acute Renal failure: Patient presents with acute renal
   failure in the setting of hypotension, NSAID use, and hypovolemia.
   Thus cause for renal failure is likely multifactorial.  Will evaluate
   with u/a, urine culture, will need to evaluate urine sediment. As well
   will give aggressive IVF.  Concern with AMS, hypotension, ARF and LFT
   abnormalities, that patient could have tamponade.  Pulsus 6 on initial
   eval but will recheck.
   - IVF
   - urine studies
   - renally dose meds
   3. Thrombocytopenia: Unclear etiology, concerning for TTP, DIC or
   consumption in the setting of occult bleeding.  Will repeat diff in AM
   and hct.  If persistent low plt with schistocytes and no signs of DIC
   will contact heme for phasmaphoresis.
   - Tx plt if <20
   - [**Last Name (un) 4201**] hct/plt
   - consider heme c/s if still low and concern for TTP
   4. Acute hepatitis: Given hypotension, potentially ischemic secondary
   to poor perfusion.  Will also send off hepatitis serologies as could
   have reactivation of Hep B in the setting of chemotherapy.
   Additionally could be infection or metatastases.
   - hepatitis serologies
   - repeat LFTs
   - Likely do CT torso
   - echo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-12**] 10:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-01-14 09:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Echo showed increased LVEDP and moderately dilated RV. Patient's work
   of breathing has increased overnight. O2 sats are down from yesterday.
   LENI negative for DVT.
   RUQ ultrasound without significant pathology.
   Hct did increase with transfusion.
   Creat has normalized.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2196-1-13**] 09:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Ceftriaxone - [**2196-1-14**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   [**Last Name (LF) **], [**First Name3 (LF) **], simvastatin, protonix, Klonapin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-14**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 105 (90 - 113) bpm
   BP: 109/53(64) {101/53(64) - 128/74(84)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,228 mL
                                                                     50 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    623 mL
                                                                     50 mL
   Blood products:
                                                                    355 mL
   Total out:
                                                                  3,850 mL
                                                                  1,050 mL
   Urine:
                                                                  3,850 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,622 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Moderate
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Anterior and at bases, No(t)
   Bronchial: , Wheezes : Prolonged expiratory phase, No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: ), Using expiratory accessory
   muscles.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   26 K/uL
   157 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   46 mg/dL
   108 mEq/L
   142 mEq/L
   26.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2196-1-13**]  12:44 AM
                            [**2196-1-13**]  11:36 AM
                            [**2196-1-13**]  05:11 PM
                            [**2196-1-14**]  04:45 AM
   WBC
   4.3
   4.1
   5.0
   7.4
   Hct
   22.7
   22.7
   25.2
   26.3
   Plt
   20
   21
   25
   26
   Cr
   3.1
   1.8
   1.1
   Glucose
   122
   148
   157
   Other labs: ALT / AST:1092/765, Alk Phos / T Bili:92/0.6,
   Differential-Neuts:79.1 %, Band:0.0 %, Lymph:16.7 %, Mono:3.0 %,
   Eos:0.1 %, D-dimer:150 ng/mL, Fibrinogen:499 mg/dL, LDH:747 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   ANEMIA
   ACIDOSIS
   Patient rating dyspnea as [**9-13**] despite fentanyl patch. With
   transfusions, patient may have beome volume overloaded. Echo compatible
   with this. Would try diuresing today, now that renal function has
   normalized. Will also try CPAP for comfort and to reduce afterload.
   Continue antibiotics.
   Hct has responded to transfusion. Still unclear what was the source of
   the drop.
   Creat down to 1 with volume resuscitation.
   Blood pressure has normalized with volume resuscitation.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2196-1-12**] 10:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2196-01-15 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 09:38 AM
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 09:45 AM
   Wife and nurse [**First Name (Titles) 4252**] [**Last Name (Titles) **] to stop NIV put patient back on NRB, NIV
   started at 0945 stopped at 1030,  for a total of 45 mins.
 NON-INVASIVE VENTILATION - STOP [**2196-1-14**] 10:30 AM
   Wife and nurse [**First Name (Titles) 4252**] [**Last Name (Titles) **] to stop NIV put patient back on NRB, NIV
   started at 0945 stopped at 1030,  for a total of 45 mins.
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 12:43 PM
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 12:43 PM
   NIV restarted again at 1243 PM PSV 8&8 80%
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 12:43 PM
 NON-INVASIVE VENTILATION - STOP [**2196-1-14**] 05:19 PM
   Assessment:
    Assumed care of pt on 6L NC and NRB @15L.  Sleeping but arousable.
   Tachypneic with RR in 30
s, sats in low 80
s.  No IV access.  At 21:20
   pt desaturated to 74-75% with a subsequent run of SVT to 160
   Action:
    10mg SL morphine, repositioned.  Addition 10mg SL morphine about an
   hour later for anxiety.  Unable to sip water so PO admin of klonopin
   precluded.
   Response:
    SVT self-limiting.  VSS then remained mostly stable with HR 110
   BP
s WNL, sats 82-83%.  Incontinent of urine x1  this shift; had rec
   lasix 10mg IV x1 on previous shift and voided ~2L.  Arousing to
   stimulation but otherwise .
   Plan:
    Goal of care is to discharge pt to home with hospice today.  [**First Name8 (NamePattern2) 376**]
   [**Last Name (NamePattern1) 377**], Palliative [**Name8 (MD) 81**] NP, was consulted over the phone at ~6pm last
   night and plans to be in this am around 8.  Family states that they are
   not emotionally prepared to acquire hospice care on their own.  This RN
   had initial contact with Hospice of [**Hospital3 1959**] who will accept pt; HSS
   needs to be phoned again at  8am ([**Telephone/Fax (1) 4251**].  MICU team to write Rx
   for SL morphine and ativan which family should have filled at Procare.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Ceftriaxone - [**2196-1-14**] 05:00 AM
   Vancomycin - [**2196-1-14**] 11:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-15**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 111 (98 - 155) bpm
   BP: 126/76(88) {103/61(83) - 149/115(118)} mmHg
   RR: 28 (26 - 37) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    331 mL
                                                                      1 mL
   PO:
                                                                     80 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                      0 mL
   Urine:
                                                                  3,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,459 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 820 (777 - 820) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 20 cmH2O
   SpO2: 85%
   ABG: ////
   Ve: 23 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   26 K/uL
   9.0 g/dL
   157 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   46 mg/dL
   108 mEq/L
   142 mEq/L
   26.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2196-1-13**]  12:44 AM
                            [**2196-1-13**]  11:36 AM
                            [**2196-1-13**]  05:11 PM
                            [**2196-1-14**]  04:45 AM
   WBC
   4.3
   4.1
   5.0
   7.4
   Hct
   22.7
   22.7
   25.2
   26.3
   Plt
   20
   21
   25
   26
   Cr
   3.1
   1.8
   1.1
   Glucose
   122
   148
   157
   Other labs: ALT / AST:1092/765, Alk Phos / T Bili:92/0.6,
   Differential-Neuts:79.1 %, Band:0.0 %, Lymph:16.7 %, Mono:3.0 %,
   Eos:0.1 %, D-dimer:150 ng/mL, Fibrinogen:499 mg/dL, LDH:747 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2196-01-15 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Increased shortness of breath over the morning [**1-14**].   Intermittently
   required Non-invasive respiratory support.    CXR with acute changes
   concerning for infection.  No micro data to provide treatment
   guidance.
   Last evening, pt made CMO.  Plans initiated for home hospice care.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Ceftriaxone - [**2196-1-14**] 05:00 AM
   Vancomycin - [**2196-1-14**] 11:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies pain
   Flowsheet Data as of  [**2196-1-15**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 116 (98 - 155) bpm
   BP: 126/76(88) {126/61(83) - 149/115(118)} mmHg
   RR: 38 (26 - 38) insp/min
   SpO2: 79%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    331 mL
                                                                      1 mL
   PO:
                                                                     80 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                      0 mL
   Urine:
                                                                  3,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,459 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Nasal Canula/NRB
   RR (Spontaneous): 34
   FiO2:  6L NC and NRB @15L.
   SpO2: 85%
   Physical Examination
   GEN:  Tachypnic,  appears somnolent and minimally arousable, family at
   bedside.
   Labs / Radiology
     No labs or radiology studies today.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   64 yo man with NSCLC admitted with hypotension, SOB; now ICU day 3.  Pt
   on face mask and nasal cannula this AM.  CXR yesterday with significant
   interval changes concerning for acute infectious process.   Pt now with
   Increased work of breathing and on SL morphine as pt has no IV
   access.   Pt made CMO last night and plans in motion for d/c home with
   hospice today.
   - d/c to home
   - continue SL morphine and supplemental for symptom relief
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:   No Access
   Prophylaxis:
   Communication:
   Code status: DNR / DNI ; CMO
   Disposition: home with hospice.

2196-01-15 09:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, lung ca, pneumonia, anemia,
   acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient kept comfortable overnight with opiates - sublinqual morphine.
   Oxygenation marginal with NRB mask plus O2 via nasal cannula. Patient
   diuresed with 3L negative fluid balance yesterday.
   Afebrile
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 09:38 AM
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 09:45 AM
   Wife and nurse [**First Name (Titles) 4252**] [**Last Name (Titles) **] to stop NIV put patient back on NRB, NIV
   started at 0945 stopped at 1030,  for a total of 45 mins.
 NON-INVASIVE VENTILATION - STOP [**2196-1-14**] 10:30 AM
   Wife and nurse [**First Name (Titles) 4252**] [**Last Name (Titles) **] to stop NIV put patient back on NRB, NIV
   started at 0945 stopped at 1030,  for a total of 45 mins.
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 12:43 PM
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 12:43 PM
   NIV restarted again at 1243 PM PSV 8&8 80%
 NON-INVASIVE VENTILATION - START [**2196-1-14**] 12:43 PM
 NON-INVASIVE VENTILATION - STOP [**2196-1-14**] 05:19 PM
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Ceftriaxone - [**2196-1-14**] 05:00 AM
   Vancomycin - [**2196-1-14**] 11:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-15**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 116 (98 - 155) bpm
   BP: 126/76(88) {126/61(83) - 149/115(118)} mmHg
   RR: 38 (26 - 38) insp/min
   SpO2: 79%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    331 mL
                                                                      1 mL
   PO:
                                                                     80 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                      0 mL
   Urine:
                                                                  3,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,459 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 820 (777 - 820) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 20 cmH2O
   SpO2: 79%
   ABG: ////
   Ve: 23 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild respiratory
   distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 1+ edema, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   26 K/uL
   157 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.5 mEq/L
   46 mg/dL
   108 mEq/L
   142 mEq/L
   26.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2196-1-13**]  12:44 AM
                            [**2196-1-13**]  11:36 AM
                            [**2196-1-13**]  05:11 PM
                            [**2196-1-14**]  04:45 AM
   WBC
   4.3
   4.1
   5.0
   7.4
   Hct
   22.7
   22.7
   25.2
   26.3
   Plt
   20
   21
   25
   26
   Cr
   3.1
   1.8
   1.1
   Glucose
   122
   148
   157
   Other labs: ALT / AST:1092/765, Alk Phos / T Bili:92/0.6,
   Differential-Neuts:79.1 %, Band:0.0 %, Lymph:16.7 %, Mono:3.0 %,
   Eos:0.1 %, D-dimer:150 ng/mL, Fibrinogen:499 mg/dL, LDH:747 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   RESPIRATORY DISTRESS
   ANEMIA
   PNEUMONIA
   Focus of care continues to be comfort for patient. No labs obtained.
   Morphine being administered.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 20 minutes

2196-01-15 09:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2196-1-13**] 04:00 AM
   Ceftriaxone - [**2196-1-14**] 05:00 AM
   Vancomycin - [**2196-1-14**] 11:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-15**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 116 (98 - 155) bpm
   BP: 126/76(88) {126/61(83) - 149/115(118)} mmHg
   RR: 38 (26 - 38) insp/min
   SpO2: 79%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    331 mL
                                                                      1 mL
   PO:
                                                                     80 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                      0 mL
   Urine:
                                                                  3,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,459 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 820 (777 - 820) mL
   PS : 8 cmH2O
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 20 cmH2O
   SpO2: 79%
   ABG: ////
   Ve: 23 L/min
   Physical Examination
   Labs / Radiology
     No labs or radiology studies today.
   Assessment and Plan
   ICU Care